* C:\Users\jason\Downloads\ECE322L Jason Yan LTSpice Labs\LTSpice Labs\Lab 3\ACanalysis.asc
* Generated by LTspice 26.0.2 for Windows.
Vcc N001 0 10
Vin N002 0 SINE(0 100m 1k -10) AC 1 0
Vnn N003 0 -10
X§X1 N001 N002 N003 0 Vout InvertingOpamp

* block symbol definitions
.subckt InvertingOpamp Vcc Vin Vnn Vrtn Vout
R1 N001 Vrtn 10kR
X§U1 Vin N001 Vcc Vnn Vout LM324 ;§pnba +)-)Vcc)Vnn)Vout
R2 Vout N001 90kR
.ends InvertingOpamp

* Vnn
* Vin
* Vcc
.ac dec 1000 10 10Meg
.include LM324.sub
.backanno
.end
